US07666878B2
4-Bromomethyl-2-chloro-1-methanesulfonyl-benzene
The titled compound is prepared analogously to 4-bromomethyl-2-fluoro-1-methanesulfonyl-benzene by replacing 3,4-difluorobenzaldehyde with 3-chloro-4-fluoro-benzaldehyde.

reactant | 4-bromomethyl-2-fluoro-1-methanesulfonyl-benzene | BrCC1=CC(=C(C=C1)S(=O)(=O)C)F | C8H8BrFO2S
reactant | 3-chloro-4-fluoro-benzaldehyde | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
product | 4-Bromomethyl-2-chloro-1-methanesulfonyl-benzene | BrCC1=CC(=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
